US06747023B1
1-[(6-Chloronaphthalen-2-yl)sulfonyl]-4-[2-hydroxy-4-(pyridin-4-yl)benzoyl]piperazine hydrochloride
In the same manner as in Example A-4, a reaction was conducted using 2-(hydroxy-4-(4-pyridyl)benzoic acid and 1-[(6-chloronaphthalen-2-yl)sulfonyl]piperazine hydrochloride as starting materials, whereby the title compound was obtained.

reactant | hydroxy-4-(4-pyridyl)benzoic acid | OC1=C(C(=O)O)C=CC(=C1)C1=CC=NC=C1 | C12H9NO3
reactant | 1-[(6-chloronaphthalen-2-yl)sulfonyl]piperazine hydrochloride | Cl.ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CCNCC1
product | 1-[(6-Chloronaphthalen-2-yl)sulfonyl]-4-[2-hydroxy-4-(pyridin-4-yl)benzoyl]piperazine hydrochloride | Cl.ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CCN(CC1)C(C1=C(C=C(C=C1)C1=CC=NC=C1)O)=O | InChI=1S/C26H22ClN3O4S.ClH/c27-22-4-1-20-16-23(5-2-19(20)15-22)35(33,34)30-13-11-29(12-14-30)26(32)24-6-3-21(17-25(24)31)18-7-9-28-10-8-18;/h1-10,15-17,31H,11-14H2;1H
